US06432988B1
c) 2-Chloromethyl-1-methylthiobenzene
2-Hydroxymethyl-1-methylthiobenzene (3.3 g, 21 mmol) is dissolved in 20 ml of absolute CH2Cl2 under an argon atmosphere. A solution of SOCl2 (2.6 g, 21 mmol) in 10 ml of absolute CH2Cl2 is added dropwise with stirring to this initial mixture in the course of 15 min, first under reflux, then at an internal temperature of 30° C. The reaction mixture is stirred under reflux for 2.25 h. The reaction mixture is concentrated and the oily crude product is purified by bulb tube distillation (7.9×10−2 mbar, 125-140° C.): colorless oil; yield: 3.3 g (88%).

reactant | 2-Hydroxymethyl-1-methylthiobenzene | 21 mmol, 3.3 g | OCC1=C(C=CC=C1)SC | C8H10OS
reactant | SOCl2 | 21 mmol, 2.6 g | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-1-methylthiobenzene | ClCC1=C(C=CC=C1)SC | C8H9ClS
